US08686022B2
(S)-1-methyl-7-[4-(1-methyl-pyrrolidine-2-carbonyl)-piperazin-1-ylmethyl]-1H-indole-2-carboxylic acid-[5-tert-butyl-2-methoxy-3-(4-methyl-piperazin-1-ylmethyl)-phenyl]-amide
160 mg of (S)-1-methyl-7-[4-(1-methyl-pyrrolidine-2-carbonyl)-piperazin-1-ylmethyl]-1H-indole-2-carboxylic acid-(5-tert-butyl-3-formyl-2-methoxy-phenyl)-amide are dissolved in 2 ml of 1,2-dichloroethane, combined successively with 40 μl acetic acid and 45 μl of 1-methylpiperazine and stirred for 1 hour at ambient temperature. Then 70 mg of sodium triacetoxyborohydride are added and the mixture is stirred for 5 hours. Then it is divided between dichloromethane and saturated aqueous sodium hydrogen carbonate solution and the organic phase is washed with saturated aqueous sodium chloride solution. After drying with magnesium sulphate the solvents are eliminated in vacuo and the residue is purified by preparative HPLC (method 7).

reactant | (S)-1-methyl-7-[4-(1-methyl-pyrrolidine-2-carbonyl)-piperazin-1-ylmethyl]-1H-indole-2-carboxylic acid-(5-tert-butyl-3-formyl-2-methoxy-phenyl)-amide | 160 mg | C(C)(C)(C)C=1C=C(C(=C(C1)NC(=O)C=1N(C2=C(C=CC=C2C1)CN1CCN(CC1)C(=O)[C@H]1N(CCC1)C)C)OC)C=O | C33H43N5O4
reactant | 1-methylpiperazine | 45 μl | CN1CCNCC1 | C5H12N2
reactant | sodium triacetoxyborohydride | 70 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | 1,2-dichloroethane | 2 ml | ClCCCl | C2H4Cl2
solvent | dichloromethane | ClCCl | CH2Cl2
solvent | acetic acid | 40 μl | C(C)(=O)O | C2H4O2
product | (S)-1-methyl-7-[4-(1-methyl-pyrrolidine-2-carbonyl)-piperazin-1-ylmethyl]-1H-indole-2-carboxylic acid-[5-tert-butyl-2-methoxy-3-(4-methyl-piperazin-1-ylmethyl)-phenyl]-amide | C(C)(C)(C)C=1C=C(C(=C(C1)NC(=O)C=1N(C2=C(C=CC=C2C1)CN1CCN(CC1)C(=O)[C@H]1N(CCC1)C)C)OC)CN1CCN(CC1)C | C38H55N7O3
